US03966930
108 grams of 3-fluorophenothiazine were dissolved in 1 liter of dry benzene. 75 grams of acetyl chloride were then added and the mixture heated under reflux for 4 hours, whereupon the mixture was evaporated. The residue was recrystallized from ethanol and 111 grams of 10-acetyl-3-fluorophenothiazine were obtained. MP: 125° Centigrade. The 111 grams of 10-acetyl-3-fluorophenothiazine were heated under reflux for 2 hours with 160 grams of anhydrous aluminium chloride in 800 milliliters of carbon disulphide. The mixture was cooled, and 70 grams of acetyl chloride were added slowly, whereupon the mixture was heated under reflux for 4 hours. The mixture was poured onto crushed ice and extracted with ether. The ether phase was evaporated, the residue dissolved in a mixture of 2 liters of ethanol and 50 milliliters of 50% sodium hydroxide solution and heated for 5 minutes on a steam bath. Thereby 2-acetyl-7-fluorophenothiazine crystallized out as white crystals which melt at 210° Centigrade. Yield: 80 grams.

reactant | 3-fluorophenothiazine | 108 grams | FC=1C=CC=2NC3=CC=CC=C3SC2C1 | C12H8FNS
reactant | acetyl chloride | 75 grams | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | 10-acetyl-3-fluorophenothiazine | 111 grams | C(C)(=O)N1C2=CC=CC=C2SC=2C=C(C=CC12)F | C14H10FNOS
